US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-cyclohexan-1-one (0.17 g, 0.88 mmol) and 2-bromo-5-(5-methyl-[1,2,4]oxadiazol-2-yl)thiophene (0.18 g, 1.2 mmol) in triethylamine (5 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)palladium(0) (0.037 g, 4%) and copper(I) iodide (0.010 g, 6%), and the mixture was heated at 85°-90° C. for 2 h. Ammonium chloride was added and the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 25:75 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-[5-(5-methyl-[1,2,4]oxadiazol-2-yl)thien-2-ylethynyl]cyclohexan-1-one as a white wax (0.17 g, 45%), mp 94°-95° C. Anal. (C27H28N2O4S) calcd: C, 68.04; H, 5.92; N, 5.88; found: C, 67.83; H, 5.89; N, 5.92.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-cyclohexan-1-one | 0.88 mmol, 0.17 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 2-bromo-5-(5-methyl-[1,2,4]oxadiazol-2-yl)thiophene | 1.2 mmol, 0.18 g | BrC=1SC(=CC1)N1OC(=NC1)C | C7H7BrN2OS
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.037 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.010 g | [Cu]I
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-[5-(5-methyl-[1,2,4]oxadiazol-2-yl)thien-2-ylethynyl]cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC=1SC(=CC1)N1OC(=NC1)C | C27H30N2O4S
